US09216173B2
To a solution of 3-{[(benzyloxy)carbonyl]amino}-N-(tert-butoxycarbonyl)alanine (10.0 g, 30.0 mmol) in DMF (100 mL) was added HATU (14.0 g, 36.0 mmol). After 2 hours, methylamine (4.1 g, 60 mmol) and triethylamine (15.0 g, 149 mol) were added. After 16 hours, the reaction mixture was diluted with water and the aqueous layer was extracted with ethyl acetate (3×100 mL). The combined organic layers were dried over sodium sulfate, filtered, and concentrated under reduced pressure. The residue was purified via reverse phase HPLC (acetonitrile/water with 0.1% TFA, linear gradient) to give benzyl {2-[(tert-butoxycarbonyl)amino]-3-(methylamino)-3-oxopropyl}carbamate. MS ESI calc'd. for C17H26N3O5 [M+H]+ 352. found 352. 1H NMR (300 MHz, CDCl3) δ 7.33-7.31 (m, 5H), 6.59-6.57 (m, 1H), 5.69-5.66 (m, 1H), 5.42-5.39 (m, 1H), 5.14-5.05 (m, 2H), 4.19-4.16 (m, 1H), 3.63-3.41 (m, 2H), 2.78 (d, J=4.8 Hz, 3H), 1.43 (s, 9H).

reactant | 3-{[(benzyloxy)carbonyl]amino}-N-(tert-butoxycarbonyl)alanine | 30.0 mmol, 10.0 g | C(C1=CC=CC=C1)OC(=O)NC[C@H](NC(=O)OC(C)(C)C)C(=O)O | C16H22N2O6
reactant | HATU | 36.0 mmol, 14.0 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | methylamine | 60 mmol, 4.1 g | CN | CH5N
reactant | triethylamine | 149 mol, 15.0 g | C(C)N(CC)CC | C6H15N
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | benzyl {2-[(tert-butoxycarbonyl)amino]-3-(methylamino)-3-oxopropyl}carbamate | C(C)(C)(C)OC(=O)NC(CNC(OCC1=CC=CC=C1)=O)C(=O)NC | C17H25N3O5
